US04568666
N-Benzyloxycarbonyl-O-tertiarybutyl-L-tyrosine N-methylamide (2.4 g 6.2 mM) in ethanol (10 ml) was heated under reflux with cyclo hexene (4 ml) acetic acid (0.38 g 6.2 mM) and palladium on carbon (10%, 1 g) under an atmosphere of argon for 20 m. The solvents were then removed in vacuo to afford O-tertiarybutyl-L-tyrosine N-methylamide acetate m.p. 121°-123° C. This was dissolved in dichloromethane (50 ml) and shaken with aqueous saturated sodium hydrogen carbonate (50 ml). The organic layer was dried over anhydrous sodium sulphate and concentrated in vacuo to afford O-tertiary butyl-L-tyrosine N-methyl amide as a crude gum which was used directly in the next step. N-[3-N-Benzyloxy carbonyl]amino-1-(R)-methoxycarbonylpropyl]-L-leucine hydrochloride (418 mg, 1 mM) in dichloromethane (10 ml) was treated with 1-hydroxybenzotriazole (159 mg, 1.0 mM) N-methylmorpholine (210 mg, 2 mM), O-tertiarybutyl-L-tyrosine-N-methyl amide (275 mg, 1.1 mM) and N-(3-dimethylaminopropyl)-N'-ethyl carbodiimide hydrochloride (200 mg, 1.04 mM) at 0° C. with continuous stirring. The reaction mixture was adjusted to pH7 with N-methylmorpholine and was allowed to warm to 20° C. over 16 h. The reaction was diluted with dichloromethane and washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous 3N citric acid, dried over sodium sulphate and concentrated in vacuo to afford N-[3-N-(Benzyloxycarbonyl)amino-1-(R)-methoxy carbonypropyl]-L-leucine-O-tertiary butyl-L-tyrosine-N-methyl amide (350 mg, 0.6 mM) which crystallised from ethyl acetate/hexane as needles m.p. 66°-68° C. (Found: C,64.7; H,8.1; N,9.2. C33H48N4O7 requires: C,4.7; H,7.9; N,9.1%); δ(CDCl3) 0.88 (6H,d,J=7 Hz, (CH3)2C); 1.32 (9H,s, (CH3)3C); 1.16-2.0 (5H,m,CH2,CH2CH); 2.72 (3H,d,J=5 Hz, CH3NH); 3.02 to 3.4 (6H,m,2×CH,2×CH2); 3.66 (3H,s,CH3O); 4.58 (1H,m,NHCHCO); 5.08 (2H,s,CH2C5H6); 5.2 (1H,m,NH); 6.54 (1H,m,NH); 6.88 and 7.06 (each 2H,each d,each J=8 Hz,C6H4); 7.32 (5H,m,C6H5); 7.52 (1H,m,NH).

reactant | N-Benzyloxycarbonyl-O-tertiarybutyl-L-tyrosine N-methylamide | 6.2 mM, 2.4 g | CNC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OC(C)(C)C)=O | C22H28N2O4
reactant | cyclo hexene | 6.2 mM, 4 ml, 0.38 g | C1=CCCCC1 | C6H10
reactant | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | O-tertiarybutyl-L-tyrosine N-methylamide acetate | C(C)(=O)O.CNC([C@@H](N)CC1=CC=C(C=C1)OC(C)(C)C)=O | InChI=1S/C14H22N2O2.C2H4O2/c1-14(2,3)18-11-7-5-10(6-8-11)9-12(15)13(17)16-4;1-2(3)4/h5-8,12H,9,15H2,1-4H3,(H,16,17);1H3,(H,3,4)/t12-;/m0./s1
